US07476666B2
Step 3: Methyl 3-benzyloxy-5,7-dimethyl-7-dimethylaminocarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
The title compound was prepared from 3-benzyloxy-5,7-dimethyl-2-methoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid using a procedure similar to that described in Example 2, Step 5 except that 2N dimethylamine in THF was used in place of 4-fluorobenzylamine, and the reaction time totaled 4 days. 1H NMR (400 MHz, d6-DMSO) δ 7.47-7.45 (m, 2H), 7.38-7.32 (m, 3H), 5.23 (dd, J=10.8, 16.0 Hz, 2H), 4.16 (d, J=13.6 Hz, 1H), 3.81-3.76 (m, 4H), 3.00 (s, 3H), 2.72 (br s, 6H), 1.78 (s, 3H); ES MS (M+H)=401.

reactant | 3-benzyloxy-5,7-dimethyl-2-methoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-7-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2(C(=O)O)C)C)=O)C(=O)OC | C18H19N3O6
reactant | dimethylamine | 2N | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 3-benzyloxy-5,7-dimethyl-7-dimethylaminocarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2(C(=O)N(C)C)C)C)=O)C(=O)OC | C20H24N4O5
